US07244726B2
6-{4-[2-(2-Methylquinolin-5-yloxy)ethyl]piperazin-1-ylmethyl}-3,4-dihydro-2H-benzo[1,4]oxazine (E3)
6-(4-(2-(2-Methylquinolin-5-yloxy)ethyl)piperazin-1-ylmethyl)-4H-benzo[1,4]oxazin-3-one (0.139 g, 0.32 mmol) was dissolved in dry tetrahydrofuran (10 mL) under argon and treated with a solution of lithium aluminium hydride in tetrahydrofuran (1 M, 0.32 mL, 0.32 mmol) and the reaction stirred at ambient temperature. More lithium aluminium hydride solution (1 M in tetrahydrofuran, 0.32 mL, 0.32 mmol) was added after 18 h and the mixture stirred for 1 h before being quenched with 10% potassium sodium tartrate aq. and extracted with ethyl acetate. The combine organic extracts were washed with water, saturated brine, dried (MgSO4) and evaporated to dryness under reduced pressure. Chromatography on SiO2, eluting with a gradient of 10% 0.880 ammonia/methanol in dichloromethane, gave the title compound (0.073 g, 54%) as a yellow foam.

reactant | 6-(4-(2-(2-Methylquinolin-5-yloxy)ethyl)piperazin-1-ylmethyl)-4H-benzo[1,4]oxazin-3-one | 0.32 mmol, 0.139 g | CC1=NC2=CC=CC(=C2C=C1)OCCN1CCN(CC1)CC=1C=CC2=C(NC(CO2)=O)C1 | C25H28N4O3
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | lithium aluminium hydride | 0.32 mmol, 1 M, 0.32 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.32 mmol, 1 M, 0.32 mL | O1CCCC1 | C4H8O
product | 6-{4-[2-(2-Methylquinolin-5-yloxy)ethyl]piperazin-1-ylmethyl}-3,4-dihydro-2H-benzo[1,4]oxazine | 0.073 g, 54% | CC1=NC2=CC=CC(=C2C=C1)OCCN1CCN(CC1)CC=1C=CC2=C(NCCO2)C1 | C25H30N4O2
